US04410537
A mixture of ethyl 5-(2-formyl-3-benzyloxyphenoxy)pentanoate (3.61 g, 0.01 M), potassium hydroxide (1.19 g, 0.021 M) and ethanol (40 ml) were stirred at 50°-60° C. for 5 hours. The ethanol was then removed in vacuo, the residue dissolved in water (50 ml) and the solution extracted with ether (2×80 ml). The aqueous layer was then acidified by the addition of 2 N aqueous hydrochloric acid and the product extracted with ether (3×50 ml), and the combined extracts washed with water to neutrality, dried, and concentrated in vacuo to give 5-(2-formyl-3-benzyloxyphenoxy) pentanoic acid, 3.0 g, 91% as a yellow oil which crystallised on standing. The crude solid was crystallised from benzene/petroleum spirit 30°-40° C. to give pale cream crystals m.p. 110° C.

reactant | ethyl 5-(2-formyl-3-benzyloxyphenoxy)pentanoate | 0.01 M, 3.61 g | C(=O)C1=C(OCCCCC(=O)OCC)C=CC=C1OCC1=CC=CC=C1 | C21H24O5
reactant | potassium hydroxide | 0.021 M, 1.19 g | [OH-].[K+]
solvent | ethanol | 40 ml | C(C)O | C2H6O
product | 5-(2-formyl-3-benzyloxyphenoxy) pentanoic acid | C(=O)C1=C(OCCCCC(=O)O)C=CC=C1OCC1=CC=CC=C1 | C19H20O5
